US08802659B2
1-(6-((trans)-4-tert-butylcyclohexyloxy)quinolin-2-yl)ethanone
1-[6-(4-tert-Butyl-cyclohexyloxy)-quinolin-2-yl]-ethanol (1.40 g, 4.28 mmol) in Methylene chloride (24.5 mL, 382 mmol) was added Dess-Martin periodinane (3.2 g, 7.6 mmol) and was stirred at room temperature for 1 hour. After pass through si gel plug, the solvent was concentrated down to give product as an oil (1.29 g, 93%). LCMS 2.28 min at m/z 326.20 ([M+1], 100%).

reactant | 1-[6-(4-tert-Butyl-cyclohexyloxy)-quinolin-2-yl]-ethanol | 4.28 mmol, 1.40 g | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=NC2=CC1)C(C)O | C21H29NO2
reactant | Methylene chloride | 382 mmol, 24.5 mL | C(Cl)Cl | CH2Cl2
reactant | Dess-Martin periodinane | 7.6 mmol, 3.2 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
product | 1-(6-((trans)-4-tert-butylcyclohexyloxy)quinolin-2-yl)ethanone | 1.29 g, 93% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=NC2=CC1)C(C)=O | C21H27NO2
